US07732618B2
b.) {5-[Benzyl-(2,6-difluoro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[Benzyl-(2,6-difluoro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester (0.12 mmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.28 (m, 8H), 6.93 (m, 2H), 6.79 (m, 1H), 5.09 (s, 2H), 4.58 (s, 2H), 2.61 (t, 2H), 1.69 (m, 2H), 0.92 (t, 3H). MS calculated for C26H23F2N3O3+H: 464, observed: 464.

reactant | {5-[Benzyl-(2,6-difluoro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | 0.12 mmol | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(C2=C(C=CC=C2F)F)=O)CC2=CC=CC=C2)CCC)=O | C30H31F2N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[Benzyl-(2,6-difluoro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | C(C1=CC=CC=C1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)C(C1=C(C=CC=C1F)F)=O | C26H23F2N3O3
